US04433152
A mixture of 3 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 2.2 g of p-t-butyl thiophenol, 2.6 g of dicyclohexylcarbodiimide and 18 ml of dry dimethylformamide was stirred at room temperature for 10 hours. After removal of any insoluble materials, the solvent was removed under reduced pressure. The residue was washed with ether and dissolved in t-butanol. Ether was added to the solution to give an oily substance. Water was added to the oily substance, and the mixture was allowed to stand overnight in cold conditions to give crystals. The crystals were washed with ethyl acetate and then with ether and air-dried to obtain 2.3 g (yield: 46.9%) of p-t-butylphenylthio 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 86° to 88° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 3 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | p-t-butyl thiophenol | 2.2 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | dicyclohexylcarbodiimide | 2.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | p-t-butylphenylthio 1-amidino-4-piperidinepropionate hydrochloride | 2.3 g, yield: 46.9% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OSC1=CC=C(C=C1)C(C)(C)C | InChI=1S/C19H29N3O2S.ClH/c1-19(2,3)15-5-7-16(8-6-15)25-24-17(23)9-4-14-10-12-22(13-11-14)18(20)21;/h5-8,14H,4,9-13H2,1-3H3,(H3,20,21);1H
